US07253285B2
A mixture of butyl (4-chloro-quinolin-6-ylmethylene)-amine (322 mg, 1.3 mmol) and a solution of sodium butoxide in butanol (3 mL, 6.0 mmol, 2.0M) were placed in a microwave tube and the mixture was heated to 120° C. for 30 min in a closed microwave. Then, the suspension was diluted with 3.0N hydrochloric acid (3 mL) and the solvent was removed under the vacuum. The residue was diluted with water and the organic compound was extracted into ethyl acetate (3×50 mL). The combined extracts were washed with saturated sodium bicarbonate solution, brine solution and dried over anhydrous magnesium sulfate. After filtration of the drying agent, the solvent was removed under the vacuum and the residue was purified by using a Biotage silica gel column chromatography to obtain 145 mg (48.5% yield) of 4-butoxy-quinoline-6-carbaldehyde as a white solid: EI-LRMS m/e calcd for C14H15NO2 (M+) 230.1, found 230.1.

reactant | butyl (4-chloro-quinolin-6-ylmethylene)-amine | 1.3 mmol, 322 mg | C(CCC)N=CC=1C=C2C(=CC=NC2=CC1)Cl | C14H15ClN2
reactant | sodium butoxide | [O-]CCCC.[Na+]
reactant | butanol | 6.0 mmol, 2.0M, 3 mL | C(CCC)O | C4H10O
solvent | hydrochloric acid | 3.0N, 3 mL | Cl | ClH
product | 4-butoxy-quinoline-6-carbaldehyde | 145 mg, 48.5% yield | C(CCC)OC1=CC=NC2=CC=C(C=C12)C=O | C14H15NO2
